US08071581B2
Step 3: 6-[(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-fluoro-methyl]-quinoline
To a suspension of (6-chloro-pyridazin-3-yl)-hydrazine (233 mg, 1.6 mmol) and 6-fluoro-quinolin-6-yl-acetic acid hydrochloride (3.90 mg, 1.6 mmol) in dichloromethane (22 mL) and pyridine (1.6 mmol, 126 mg) at ambient temperature was added dicyclohexylcarbodiimide (333 mg, 1.6 mmol). After stirring at room temperature for 18 hours the formed precipitate was filtered off, washed with dichloromethane and dried in vacuo and then taken up in acetic acid (15 mL) and heated for 6 hours at 55° C. After such time the mixture was concentrated onto silica gel in vacuo and purified via flash column chromatography (SiO2, CH2Cl2:CH3OH 100:0-90:10) to return the title compound as a yellow foam (138 mg, 0.44 mmol, 28% yield). Analytical data presented in Table 1.

reactant | (6-chloro-pyridazin-3-yl)-hydrazine | 1.6 mmol, 233 mg | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | 6-fluoro-quinolin-6-yl-acetic acid hydrochloride | 1.6 mmol, 3.90 mg | Cl.FC1(CC=2C=CC=NC2C=C1)CC(=O)O
reactant | pyridine | 1.6 mmol, 126 mg | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 1.6 mmol, 333 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 6-[(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-fluoro-methyl]-quinoline | 0.44 mmol, 138 mg, 28% yield | ClC=1C=CC=2N(N1)C(=NN2)C(C=2C=C1C=CC=NC1=CC2)F | C15H9ClFN5
